US08754115B2
Preparation of 5-(2,6-difluorophenyl)-4-[(2,4-difluorophenyl)fluoromethyl]-1,3-dimethyl-1H-pyrazole (Compound 68)
To a mixture of α-(2,4-difluorophenyl)-5-(2,6-difluorophenyl)-1,3-dimethyl-1H-pyrazole-4-methanol (i.e. the product of Example 4) (70 mg, 0.20 mmol) in dichloromethane (2 mL) at −78° C. was added bis(2-methoxyethyl)aminosulfur trifluoride (Deoxo-Fluor®) (40 μL, 0.24 mmol). The reaction mixture was stirred overnight at room temperature, and then cooled to −78° C. and saturated aqueous sodium bicarbonate solution (3 mL) was added dropwise. The resulting mixture was extracted with dichloromethane (3×) and the combined organic layers were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting material was purified by MPLC (50% ethyl acetate in hexanes as eluant) to provide the title compound, a compound of the present invention, as a solid (30 mg)

reactant | α-(2,4-difluorophenyl)-5-(2,6-difluorophenyl)-1,3-dimethyl-1H-pyrazole-4-methanol | FC1=C(C=CC(=C1)F)C(O)C=1C(=NN(C1C1=C(C=CC=C1F)F)C)C | C18H14F4N2O
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 0.24 mmol, 40 μL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 5-(2,6-difluorophenyl)-4-[(2,4-difluorophenyl)fluoromethyl]-1,3-dimethyl-1H-pyrazole | FC1=C(C(=CC=C1)F)C1=C(C(=NN1C)C)C(F)C1=C(C=C(C=C1)F)F | C18H13F5N2
